US08193199B2
To a solution of 8-chloro-2-(5-fluoro-2-(trifluoromethyl)phenyl)quinoline-3-carbaldehyde (0.3036 g, 0.8584 mmol) in tetrahydrofuran (4.292 mL, 0.8584 mmol) at 0° C. was added sodium borohydride (0.04871 g, 1.288 mmol) and the mixture was stirred at 0° C. After 1 h of stirring at 0° C., the mixture was partitioned between EtOAc (100 mL) and H2O (100 mL), and the organic layer was washed with brine (50 mL×2), dried over Na2SO4, filtered, and concentrated under reduced pressure to give (8-chloro-2-(5-fluoro-2-(trifluoromethyl)phenyl)-quinolin-3-yl)methanol as a light-yellow syrupy solid: 1H NMR (400 MHz, DMSO-d6) δ ppm 8.57 (1H, s), 8.10 (1H, dd, J=8.2, 1.2 Hz), 8.01 (1H, dd, J=8.8, 5.3 Hz), 7.95 (1H, dd, J=7.6, 1.4 Hz), 7.53-7.69 (3H, m), 5.55 (1H, br. s.), 4.25-4.56 (2H, m); LC-MS (ESI) m/z 356.0 [M+H]+. The light-yellow syrupy solid was carried on crude without purification for the next step.

reactant | 8-chloro-2-(5-fluoro-2-(trifluoromethyl)phenyl)quinoline-3-carbaldehyde | 0.8584 mmol, 0.3036 g | ClC=1C=CC=C2C=C(C(=NC12)C1=C(C=CC(=C1)F)C(F)(F)F)C=O | C17H8ClF4NO
reactant | tetrahydrofuran | 0.8584 mmol, 4.292 mL | O1CCCC1 | C4H8O
reactant | sodium borohydride | 1.288 mmol, 0.04871 g | [BH4-].[Na+]
product | (8-chloro-2-(5-fluoro-2-(trifluoromethyl)phenyl)-quinolin-3-yl)methanol | ClC=1C=CC=C2C=C(C(=NC12)C1=C(C=CC(=C1)F)C(F)(F)F)CO | C17H10ClF4NO
